US04880809
Using 2,3-dimethoxy-6,7-dihydro-5H-benzocycloheptene-8-carboxylic acid (2 g), 1-(3,4,5-trimethoxybenzyl)piperazine dihydrochloride (3.5 g), N,N-dimethylformamide (30 ml), triethylamine (3.3 g) and diethyl phosphorocyanidate (2.5 ml), a reaction as that described in Example 6 is carried out. The product is purified by silica gel column chromatography (hexane:acetone=1:1) to give an oily product which is converted to the hydrochloride in ethyl acetate to yield 1-(2,3-dimethoxy-6,7-dihydro-5H-benzocyclohepten-8-ylcarbonyl)-4-(3,4,5-trimethoxybenzyl)piperazine hydrochloride (1.2 g) as colorless crystals, m.p. 138°-142° C.

reactant | 2,3-dimethoxy-6,7-dihydro-5H-benzocycloheptene-8-carboxylic acid | 2 g | COC=1C(=CC2=C(C=C(CCC2)C(=O)O)C1)OC | C14H16O4
reactant | 1-(3,4,5-trimethoxybenzyl)piperazine dihydrochloride | 3.5 g | Cl.Cl.COC=1C=C(CN2CCNCC2)C=C(C1OC)OC
reactant | diethyl phosphorocyanidate | 2.5 ml | P(OCC)(OCC)(=O)C#N | C5H10NO3P
reactant | hydrochloride | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 3.3 g | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 1-(2,3-dimethoxy-6,7-dihydro-5H-benzocyclohepten-8-ylcarbonyl)-4-(3,4,5-trimethoxybenzyl)piperazine hydrochloride | 1.2 g | Cl.COC=1C(=CC2=C(C=C(CCC2)C(=O)N2CCN(CC2)CC2=CC(=C(C(=C2)OC)OC)OC)C1)OC | InChI=1S/C28H36N2O6.ClH/c1-32-23-16-20-7-6-8-21(15-22(20)17-24(23)33-2)28(31)30-11-9-29(10-12-30)18-19-13-25(34-3)27(36-5)26(14-19)35-4;/h13-17H,6-12,18H2,1-5H3;1H
